Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[O:4]=[C:5][O:6][H:7]>>[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.2164675820200002
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[H:8],3.7381771739
[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:13]([H:14])([H:15])[H:16],6.21616059
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.8651552136500005
[H:1][C:2][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.34698228809
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11],3.3344173492
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10],5.04610788869
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.85202263414
[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])=[C:8][H:9])[C:10]([H:11])[H:12],3.17589117097
[H:1][O:2][C:3][C:4]([H:5])[O:7][C:8]([H:9])[H:10].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-2.94814180951
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]=[C:4](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],2.85442593048
[C:7]([H:8])([H:9])[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.47642878755
[C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12],-3.93625529628
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.83096621831
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.50003151845
[H:10].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-5.07336928728
[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-4.56410291296
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:6][O:7][C:8]([H:9])=[C:10][H:11].[H:5],1.6973821651899998
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],-1.265498416
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.315468833951
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4][O:5][C:6][C:8]([H:9])([H:10])[H:11].[H:7],4.654776795919999
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],0.6816554427699999
[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:13].[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]1[H:12],2.376106207
[C:3]([H:4])(=[C:7]([C:6]#[C:5])[H:8])[H:11].[H:1][C:2]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.01537802224
[C:11]([H:12])([H:13])[O:14][H:15].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-0.264969054872
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3],1.08469845027
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.65793252297
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.94366087598
